US07241798B2
(1S,2S)-2-Phenyl-3-tosyl-3-aza-bicyclo[3.1.0]hexane-1-carbonyl chloride (racemic)
To racemic Intermediate 43, one enantiomer being (1S,2S)-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid (10.0 g, 28.0 mmol) slurried in toluene (67 mL) was added DMF (3 drops). The mixture was cooled to 0° C. and thionyl chloride (5.72 mL, 78.4 mmol) was added dropwise with stirring. The homogeneous solution was heated to 73° C. for 2.5 hours. The solvent was removed at reduced pressure. The residue was brought up in toluene two times and the solvent was removed at reduced pressure each time to yield the title compounds (10.5 g, quantitative yield) as an oil.

reactant | (1S,2S)-2-phenyl-3-(toluene-4-sulfonyl)-3-aza-bicyclo[3.1.0]hexane-1-carboxylic acid | 28.0 mmol, 10.0 g | C1(=CC=CC=C1)[C@H]1[C@@]2(CC2CN1S(=O)(=O)C1=CC=C(C=C1)C)C(=O)O | C19H19NO4S
reactant | thionyl chloride | 78.4 mmol, 5.72 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 67 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | (1S,2S)-2-Phenyl-3-tosyl-3-aza-bicyclo[3.1.0]hexane-1-carbonyl chloride | 10.5 g, quantitative yield | C1(=CC=CC=C1)[C@H]1[C@@]2(CC2CN1S(=O)(=O)C1=CC=C(C)C=C1)C(=O)Cl | C19H18ClNO3S
